US05948777
Preparation of N-(1-Adamantyl)-5-(2-[4-morpholinyl]ethoxy)-1-(4-isopropylphenyl)pyrazole-4-carboxamide
To a stirred solution of 1-(4-isopropylphenyl)-5-(2-[4-morpholinyl]ethoxy)pyrazole-4-carboxylic acid (43 mg, 0.12 mmol) in dimethylformamide (1 mL) under an argon atmosphere, was added 1-hydroxybenzotriazole (16 mg, 0.12 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (25 mg, 0.13 mmol), triethylamine (60 uL, 0.43 mmol) and 1-adamantanamine hydrochloride (25 mg, 0.13 mmol). The reaction mixture was stirred for 24 h at room temperature, heated to 70° C. for 2 h, and stirred for another 96 h at room temperature. The resulting mixture was treated with aqueous sodium carbonate, extracted with ethyl acetate, washed with water four times and dried over Na2SO4. The extract was concentrated in vacuo. This coupling was repeated on the same scale and the combined residue was purified by chromatography twice over silica gel eluting the first column with 2 to 3% methanol in chloroform, and the second with 30 to 40% ethyl acetate in chloroform to afford the title compound (7% yield, 8.5 mg) as a yellow powder, mp 132-134° C. MS (ES) m/e 493.4 [M+H]+.

reactant | 1-(4-isopropylphenyl)-5-(2-[4-morpholinyl]ethoxy)pyrazole-4-carboxylic acid | 0.12 mmol, 43 mg | C(C)(C)C1=CC=C(C=C1)N1N=CC(=C1OCCN1CCOCC1)C(=O)O | C19H25N3O4
reactant | 1-hydroxybenzotriazole | 0.12 mmol, 16 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.13 mmol, 25 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 0.43 mmol, 60 uL | C(C)N(CC)CC | C6H15N
reactant | 1-adamantanamine hydrochloride | 0.13 mmol, 25 mg | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-Adamantyl)-5-(2-[4-morpholinyl]ethoxy)-1-(4-isopropylphenyl)pyrazole-4-carboxamide | 8.5 mg, 7% yield | C12(CC3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2OCCN2CCOCC2)C2=CC=C(C=C2)C(C)C | C29H40N4O3
